US05132327
(1) 1,4-bis-{[2-(diethylamino)ethyl]amino}anthracene-9,10-dione
A mixture of 5 g (0.021 mol) of 1,4-dihydroxyanthracene-9,10-dione and 2 g (0.014 mol) of sodium dithionite in 20 ml water is stirred whilst heating under nitrogen at 90° C. until the mixture turns from orange to brown indicating the presence of 2,3-dihydro(leuco)-1,4-dihydroxyanthracene-9,10-dione. To this reaction mixture is added dropwise 20 g (0.17 mol) of 2-(diethylamino)-ethylamine over a 30 minute period. The mixture is heated at 50°-55° C. for 2 hours and 20 ml of ethanol are added. The solution is then aerated and 200 ml of 2M hydrochloric acid are added. The acidic mixture is washed with 3×200 ml of diethylether followed by 3×200 ml of chloroform. The aqueous phase is made alkaline by the addition of sodium hydroxide solution and extracted with 3×200 ml chloroform. The mixture is evaporated in vacuo to a 5 ml volume and subjected to flash chromatography using a column of 70-230 mesh (60 A) silica gel (SiO2) and an eluting solvent of chloroform followed by chloroform:methanol (1:1 v/v). The blue black material removed from the column in chloroform/methanol is evaporated in vacuo to yield 0.7 g of the title compound, m.p. 107.5°-108.5° C.; λmax λmax (deionised water) (E/cm/M) 256 nm (50950), 584 nm (18650).

reactant | 1,4-dihydroxyanthracene-9,10-dione | 0.021 mol, 5 g | OC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)O | C14H8O4
reactant | sodium dithionite | 0.014 mol, 2 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | 2-(diethylamino)-ethylamine | 0.17 mol, 20 g | C(C)N(CCN)CC | C6H16N2
reactant | hydrochloric acid | 2M, 200 ml | Cl | ClH
solvent | water | 20 ml | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1,4-bis-{[2-(diethylamino)ethyl]amino}anthracene-9,10-dione | 0.7 g | C(C)N(CCNC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)NCCN(CC)CC)CC | C26H36N4O2
